US06972287B1
Step C (Scheme 6): Preparation of 2-{4-[2-(4-Dibutylamino-phenyl)-ethyl]phenylamino}-benzoic acid
The title compound was prepared from 2-chlorobenzoic acid (1.46 g, 9.36 mmol), 4-[2-(4,4-dibutylaminophenyl)ethyl]phenylamine (3.31 g, 10.20 mmol), anhydrous potassium carbonate (4.27 g, 30.88 mmol), copper powder (1.25 g, 19.65 mmol), and copper(I) chloride (0.092 g, 0.93 mmol) in dry DMF (30 mL) using the procedure described in Example 1, Step C, Method B. This procedure yielded a 0.39 g (0.87 mmol, 8.6%) of the desired product. mp 115-117° C.

reactant | 2-chlorobenzoic acid | 9.36 mmol, 1.46 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 4-[2-(4,4-dibutylaminophenyl)ethyl]phenylamine | 10.20 mmol, 3.31 g | C(CCC)NC1(CC=C(C=C1)CCC1=CC=C(C=C1)N)NCCCC | C22H35N3
reactant | potassium carbonate | 30.88 mmol, 4.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | copper | 19.65 mmol, 1.25 g | [Cu] | Cu
catalyst | copper(I) chloride | 0.93 mmol, 0.092 g | [Cu]Cl
product | 2-{4-[2-(4-Dibutylamino-phenyl)-ethyl]phenylamino}-benzoic acid | 0.87 mmol, 0.39 g, 8.6% | C(CCC)N(C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1)CCCC | C29H36N2O2
